US07420083B2
Synthesis of 4-{2-[({(E)-1-[4-(tert-Butyl)phenyl]ethylidene}amino)oxy]-ethoxy}-2-chloro-benzoic Acid
The title compound was prepared as white solid (0.334 g, 53%) from 4-(2-bromo-ethoxy)-2-chloro-benzoic acid methyl ester and 1-(4-tert-butyl-phenyl)-ethanone oxime using a procedure similar to that of step 1 of example 6. mp=142.7-143.9° C.; mass spectrum (−ESI, M−H) m/z 388. 1H NMR (400 MHz, DMSO-d6); δ 12.97 (bs, 1H), 7.81 (d, 1H), 7.57 (d, 2H), 7.40 (d, 2H), 7.14 (d, 1H), 7.02 (dd, 1H), 4.42 (t, 2H), 4.38 (t, 2H), 2.13 (s, 3H), 1.28 (s, 9H). Elemental analysis: Calcd. for C21H24ClNO4: C, 64.69; H, 6.20; N, 3.59, Found: C, 64.43; H, 6.20; N, 3.42.

reactant | 4-(2-bromo-ethoxy)-2-chloro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCBr)Cl)=O | C10H10BrClO3
reactant | 1-(4-tert-butyl-phenyl)-ethanone oxime | C(C)(C)(C)C1=CC=C(C=C1)C(C)=NO | C12H17NO
product | 4-{2-[({(E)-1-[4-(tert-Butyl)phenyl]ethylidene}amino)oxy]-ethoxy}-2-chloro-benzoic Acid | C(C)(C)(C)C1=CC=C(C=C1)\C(\C)=N\OCCOC1=CC(=C(C(=O)O)C=C1)Cl | C21H24ClNO4
